US08461328B2
A 4.0 M solution of HCl in 1,4-dioxane (100 ml) was added to a solution of [1-(2-cyano-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (50.0 mmol) in 1,4-dioxane (50 ml) at 25° C. The reaction mixture was stirred at 50° C. for 5 h, then was concentrated under reduced pressure to afford crude 3-(4-amino-piperidin-1-yl)-propionitrile (hydrochloride salt) as a white solid. 1H NMR (400 MHz, DMSO) δ 11.43 (s, 1H), 8.48 (s, 2H), 3.58-3.50 (m, 2H), 3.46-3.32 (m, 2H), 3.31-3.21 (m, 1H), 3.17 (t, J=7.2 Hz, 2H), 3.13-2.95 (m, 2H), 2.15 (d, J=13.5 Hz, 2H), 2.04-1.86 (m, 2H). This material was used in the next step below without additional purification or characterization.

reactant | HCl | Cl | ClH
reactant | [1-(2-cyano-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 50.0 mmol | C(C)(C)(C)OC(NC1CCN(CC1)CCC#N)=O | C13H23N3O2
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-(4-amino-piperidin-1-yl)-propionitrile | NC1CCN(CC1)CCC#N | C8H15N3
